US08466169B2
21b) Methyl 3-methoxy-5-(pentafluorosulfanyl)benzoate
3-Hydroxy-5-(pentafluorosulfanyl)benzoic acid (84 mg) was dissolved in absolute DMF (5 ml). Iodomethane (100 μl) was then added while stirring, followed by finely powdered potassium carbonate (175 mg). After stirring at 40° C. for 3 hours, the mixture was cooled and admixed with water (20 ml). The mixture was then extracted four times with ether (10 ml). The combined extracts were washed once each with 1N sodium hydroxide solution (10 ml) and water (10 ml), dried over magnesium sulfate, filtered and concentrated. 81 mg of the desired compound were obtained.

reactant | 3-Hydroxy-5-(pentafluorosulfanyl)benzoic acid | 84 mg | OC=1C=C(C(=O)O)C=C(C1)S(F)(F)(F)(F)F | C7H5F5O3S
reactant | Iodomethane | 100 μl | IC | CH3I
reactant | potassium carbonate | 175 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Methyl 3-methoxy-5-(pentafluorosulfanyl)benzoate | 81 mg | COC=1C=C(C(=O)OC)C=C(C1)S(F)(F)(F)(F)F | C9H9F5O3S
